US06423724B1
7-Isocyanato8-methylquinoline. To a solution of di-2-pyridyl thionocarbonate (2.29 g) and 4-dimethylaminopyridine (0.02 g) in methylene chloride (50 mL) is added dropwise a solution of 7-amino-8-methylquinoline (1.3 g) in methylene chloride (50 mL). The mixture is stirred for 5 hours at room temperature then rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 25% ethyl acetate/hexanes to afford 8-methyl-7-quinolinylisothiocyanate as a pale yellow solid.

reactant | 7-Isocyanato8-methylquinoline | N(=C=O)C1=CC=C2C=CC=NC2=C1C | C11H8N2O
reactant | di-2-pyridyl thionocarbonate | 2.29 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 7-amino-8-methylquinoline | 1.3 g | NC1=CC=C2C=CC=NC2=C1C | C10H10N2
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 8-methyl-7-quinolinylisothiocyanate | CC=1C(=CC=C2C=CC=NC12)N=C=S | C11H8N2S
